US06875876B2
Preparation of Initiator Precursor 3-[(N,N-di-t-Butyl)amino]-1-propylchloride
To a stirred suspension of K2CO3 (200 g, 1.5 mole) in cyclohexane 200 mL and 1-bromo-3-chloropropane (540 gms, 3.4 mole) is added dropwise over a period of 1 h at 20° C. di-t-butyl amine (289 g, 2.24 mole). After complete addition the reaction is allowed to stir for an additional 20 h. The crude reaction mixture is filtered and then washed with saturated NaCl (3×100 mL). The organic phase is extracted with 3N HCl (3×100 mL). The resulting aqueous phase, containing the desired product as the hydrochloric salt, is washed with hexanes (3×100 mL) to remove any residual BCP. The aqueous phase is subsequently basified with 50 wt % NaOH and extracted with cyclohexane (3×100 mL). After solvent removal 234 g (51% yield) of the title compound is isolated as a yellow oil.

reactant | K2CO3 | 1.5 mole, 200 g | C(=O)([O-])[O-].[K+].[K+]
reactant | 1-bromo-3-chloropropane | 3.4 mole, 540 gms | BrCCCCl | C3H6BrCl
reactant | di-t-butyl amine | 2.24 mole, 289 g | C(C)(C)(C)NC(C)(C)C | C8H19N
solvent | cyclohexane | 200 mL | C1CCCCC1 | C6H12
product | 3-[(N,N-di-t-Butyl)amino]-1-propylchloride | 234 g, 51% yield | C(C)(C)(C)N(C(C)(C)C)CCCCl | C11H24ClN
